US05633379
1.0 g (2.73 mmol) of N-(benzylsulfinyl)acetyl-4-chloro-anthranilic acid methyl ester is placed in 10 ml of tetrahydrofuran at 0°, and 0.13 g (3 mmol) of sodium hydride dispersion in oil (55%) is added thereto. The mixture is then stirred for 15 minutes at 0° and for 2 hours at room temperature. Water is added and the reaction mixture is then adjusted to pH 2-3 with 1N hydrochloric acid and extracted with ethyl acetate. The organic phases are washed with water and brine, combined, dried with sodium sulfate, filtered and concentrated. Crystallisation of the crude product from ethyl acetate/petroleum ether yields 7-chloro-3-(benzylsulfinyl)-4-hydroxy-2(1H)-quinolone in the form of colourless crystals having a melting point of 234° (decomp.).

reactant | N-(benzylsulfinyl)acetyl-4-chloro-anthranilic acid methyl ester | 2.73 mmol, 1.0 g | COC(C=1C(NC(CS(=O)CC2=CC=CC=C2)=O)=CC(=CC1)Cl)=O | C17H16ClNO4S
reactant | sodium hydride | 3 mmol, 0.13 g | [H-].[Na+]
reactant | Water | O | H2O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 7-chloro-3-(benzylsulfinyl)-4-hydroxy-2(1H)-quinolone | ClC1=CC=C2C(=C(C(NC2=C1)=O)S(=O)CC1=CC=CC=C1)O | C16H12ClNO3S
